US08754229B2
Preparation of benzyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-3-methoxypicolinate (Compound 66)
To a solution of 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-3-methoxypicolinic acid (140 mg, 0.406 mmol) in DMSO (1.354 mL) were added K2CO3 (67.4 mg, 0.487 mmol) and (bromomethyl)benzene (76 mg, 0.447 mmol). The reaction mixture was heated at 100° C. for 5 min in a Biotage microwave. The reaction mixture was then diluted with H2O and extracted with CH2Cl2. The organic extracts were separated from the aqueous layer in a Biotage phase separator. The organic layer was then concentrated, and the residue was purified by flash chromatography (eluting with 0-50% acetone in hexanes) to afford a white solid (125 mg, 69%): mp 119° C.; 1H NMR (400 MHz, acetone-d6) δ 7.56-7.49 (m, 2H), 7.43-7.27 (m, 5H), 5.98 (s, 2H), 5.40 (s, 2H), 3.97 (d, J=1.1 Hz, 3H), 3.85 (s, 3H), ESIMS m/z 436 ([M+H]+), 434 ([M−H]−).

reactant | 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-3-methoxypicolinic acid | 0.406 mmol, 140 mg | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)O)OC | C14H11ClF2N2O4
reactant | K2CO3 | 0.487 mmol, 67.4 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (bromomethyl)benzene | 0.447 mmol, 76 mg | BrCC1=CC=CC=C1 | C7H7Br
solvent | DMSO | 1.354 mL | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | benzyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-3-methoxypicolinate | 125 mg, 69% | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OCC1=CC=CC=C1)OC | C21H17ClF2N2O4
